US07425640B2
5-tert-Butoxycarbonylamino-2-tert-butoxycarbonylmethyl-2H-pyrazole-3-carboxylic acid methyl ester
To a solution of 5-Amino-2-tert-butoxycarbonylmethyl-2H-pyrazole-3-carboxylic acid methyl ester (1 gm, 3.92 mmol) in 20 ml of dichloromethane was added triethylamine (0.6 ml) followed by di-tert.butyldicarbonate (1 gm). After stirring for 5 hours the mixture was washed with 1N hydrochloric acid, dried over magnesium sulfate, filtered and evaporated to obtain 0.53 gm of title product. ESI M+1=356.

reactant | 5-Amino-2-tert-butoxycarbonylmethyl-2H-pyrazole-3-carboxylic acid methyl ester | 3.92 mmol, 1 gm | COC(=O)C=1N(N=C(C1)N)CC(=O)OC(C)(C)C | C11H17N3O4
reactant | triethylamine | 0.6 ml | C(C)N(CC)CC | C6H15N
reactant | di-tert.butyldicarbonate | 1 gm | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 5-tert-Butoxycarbonylamino-2-tert-butoxycarbonylmethyl-2H-pyrazole-3-carboxylic acid methyl ester | 0.53 gm | COC(=O)C=1N(N=C(C1)NC(=O)OC(C)(C)C)CC(=O)OC(C)(C)C | C16H25N3O6
